US06503907B2
In analogy to example 23.7, 5-(4-Bromo-butoxy)-1-(4-fluoro-phenyl)-6-fluoro-1H-indole and 2-(ethylamino)ethanol were converted to yield 2-({4-[1-(4-Fluoro-phenyl)-6-fluoro -1H-indol-5-yloxy]-butyl}-ethyl-amino)-ethanol as light yellow oil, MS: 389 (MH+).

reactant | 5-(4-Bromo-butoxy)-1-(4-fluoro-phenyl)-6-fluoro-1H-indole | BrCCCCOC=1C=C2C=CN(C2=CC1F)C1=CC=C(C=C1)F | C18H16BrF2NO
reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
product | 2-({4-[1-(4-Fluoro-phenyl)-6-fluoro -1H-indol-5-yloxy]-butyl}-ethyl-amino)-ethanol | FC1=CC=C(C=C1)N1C=CC2=CC(=C(C=C12)F)OCCCCN(CCO)CC | C22H26F2N2O2
